US05637669
C. Synthesis of 2,3,6,7,10.11-Hexaglycidyloxytriphenylene
A portion (1.284 grams, 0.02375 hydroxy equivalent) of 2,3,6,7,10,11-hexahydroxytriphenylene from B above, epichlorohydrin (439.6 grams, 4.751 moles) and tetrabutylammonium bromide (0.0128 gram, 1.0% wt, of the hexahydroxytriphenylene reactant used) were added to a glass three necked round bottom reactor and stirred under a nitrogen atmosphere as a solution. Heating commences until a temperature of 80° C. was achieved. After 5 days at the 80° C. temperature, the solution was recovered and rotary evaporated to provide a viscous, light amber colored, liquid. Titration of a portion of the product reveals the presence of 14.79% epoxide. The product was dissolved into 50/50 weight percent methylethylketone/toluene (200 milliliters) and the resultant solution was added to a three necked round bottom reactor and stirred under a nitrogen atmosphere. Sodium hydroxide (0.95 gram, 0.02375 mole) dissolved in deionized water (2 milliliters) was added to the reactor, then heating to 50° C. commences. This temperature was maintained for 3 hours followed by rotary evaportaion of the reaction slurry to dryness. The resultant product was dissolved in methylene chloride (150 milliliters), then extracted with deionized water (100 milliliters). The recovered methylene chloride solution was dried over anhydrous sodium sulfate then filtered and rotary evaporated to provide a constant weight of 3.01 grams of a tacky, light amber colored semi-solid product. Titration of a portion of this product reveals the presence of 24.64% epoxide. The crude epoxy resin was then dissolved in methylethylketone (20 mililiters) followed by addition of toluene (60 milliliters) inducing precipitation. The slurry was held at 25° C. for the next 16 hours, then the solvent was decanted from the crystalline precipitate and rotary evaporated to dryness. Acetone (5 milliliters) was added to the product then evaporated under a steam of nitrogen commences. Once the evaporation had left 3 milliliters of volume, extensive crystallization occcurs. This crystalline powder was recovered by filtration and dried in a vacuum oven at 25° C. and 1 mm Hg to a constant weight of 0.68 grams of crystalline white product. Titration of a portion of the product reveals the presence of 32.45% epoxide (132.65 epoxide equivalent weight). Infrared spectrophotometric analysis of a potassium bromide pellet of the product reveals the disappearance of the O--H stretch vibration for the phenolic hydroxyl group at 3422 (3296 slight shoulder) cm-1 and the O--H deformation at 1370 cm-1 concurrent with the presence of the C--H stretch vibration for the aromatic ring at 3064 cm-1, the C--H stretch vibrations for the aromatic ring C=C groups at 1616, 1583 (weak), 1510 and 1430 cm-1, the aromatic ring C--O vibration for the ether linkage at 1264 cm-1 (masks the weak epoxide ring C--O stretch vibration expected at 1250 cm-1), the aliphatic portion of the C--O vibration for the ether linkage at 1045 cm-1, the aromatic ring C--O stretch vibration at 1171 cm-1, the epoxide ring vibration at 912 cm-1 and the C--H out-of-plane vibration for the aromatic rings at 848 (broadened due to overlap with epoxide ring vibration expected at 835 cm-1) and 766 cm-1. Mass spectroscopic analysis using electron impact ionization and the direct probe to introduce the sample reveals the expected molecular radical cation at a mass to charge ratio of 660 with the base peak at a mass to charge ratio of 57.

reactant | 2,3,6,7,10,11-hexahydroxytriphenylene | 1.284 grams | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1O)O)O)O)O | C18H12O6
reactant | epichlorohydrin | 4.751 moles, 439.6 grams | C(Cl)C1CO1 | C3H5ClO
reactant | hexahydroxytriphenylene | OC=1C(=C2C=3C(=C(C(=C(C3C3=CC=CC=C3C2=CC1)O)O)O)O)O | C18H12O6
reactant | Sodium hydroxide | 0.02375 mole, 0.95 gram | [OH-].[Na+]
reactant | water | 2 milliliters | O | H2O
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 150 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylethylketone | CC(=O)CC | C4H8O
solvent | toluene | 60 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | methylethylketone toluene | 200 milliliters | CC(=O)CC.C1(=CC=CC=C1)C
product | 2,3,6,7,10.11-Hexaglycidyloxytriphenylene | C(C1CO1)OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCC1CO1)OCC1CO1)OCC1CO1)OCC1CO1)OCC1CO1 | C36H36O12
